US06593058B1
Synthesis of TFE/Norbornene/Ethylene/tert-Butyl Acrylate Tetrapolymer=P(TFE/NB/E/tBA)
The procedure of Example 11 was followed using 23.5 g (0.25 mol) norbornene, 6.4 g (0.05 mole) tert-butyl acrylate, 100 mL CFC-113, 1.5 g Perkadox® 16N, 2.8 g (0.10 mol) ethylene and 60 g (0.6 mol) tetrafluoroethylene. The product mixture was a clear liquid which was added to excess methanol to precipitate the polymer. There was isolated 35.8 g (39%) of white polymer; GPC (MEK) Mw 13700, Mn 7000, Mw/Mn 1.96; Inh. Visc. 0.0830; Tg 108° C. Anal. Found: C, 57.47; H, 6.11; F, 24.40. Full polymer composition could not be determined by 13C NMR due to overlapping resonances. However, the mole ratio of TFE to tert-butyl acrylate was found to be 3.0 to 1.0 from integration of peaks at 112 to 124 ppm (CF2) versus 80 ppm (CH).

reactant | tert-butyl acrylate | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | MEK | CCC(=O)C | C4H8O
product | Norbornene Ethylene tert-Butyl Acrylate | C12C=CC(CC1)C2.C=C.C(C=C)(=O)OC(C)(C)C | InChI=1S/C7H12O2.C7H10.C2H4/c1-5-6(8)9-7(2,3)4;1-2-7-4-3-6(1)5-7;1-2/h5H,1H2,2-4H3;1-2,6-7H,3-5H2;1-2H2
